Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Dysuria
 
Major Surgical or Invasive Procedure:
None 
 
Brief Hospital Course:
___ year old female with a history of recent admit for klebsiella 
UTI (no micro data available in OMR), T2N1 stage IIa gastric 
adenocarcinoma in the setting of Lynch Syndrome  most recently 
on EOX with ___ presents with 1 day of dysuria and
urinary frequency.

# UTI - UA grossly  positive, GNRs growing in urine.   Symptoms
resolved on IV CTX.   Switchin to PO cipro to complete 5 
additional days
of therapy.  If recurrent symptoms, she knows to come back.   I 
will follow
up results with plan to call her if abx resistance and other med 
indicated. 

# Gastric adenoCA - T2N1 stage IIa gastric adenocarcinoma in the
setting of Lynch Syndrome  most recently on EOX with ___
- f/u as outpatient w/ oncologist

# Elevated lactate - was elevated to 4 then to 3, however she 
was asymptomatic.
She received fluid resuscitation, was able to walk in hallways 
and had no signs
of acidosis.  

# GERD - cont pantoprazole

# hypothyroid - cont synthroid
.
___ ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Multivitamins 1 TAB PO DAILY 
3. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Pantoprazole 40 mg PO Q24H 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Simvastatin 5 mg PO QPM 
9. LOPERamide 2 mg PO TID:PRN diarrhea 
10. Phosphorus 500 mg PO DAILY 

 
Discharge Medications:
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Pantoprazole 40 mg PO Q24H 
6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
8. LOPERamide 2 mg PO TID:PRN diarrhea 
9. Phosphorus 500 mg PO DAILY 
10. Simvastatin 5 mg PO QPM 
11. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
(1) UTI
(2) Gastric adenocarcinoma 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted with a UTI.   We started you on IV antibiotics 
and you had significant improvement in your symptoms.   We gave 
you oral antibiotics which you should continue for an additional 
6 days.  If you experience worsening of your symptoms, please 
return to the ED.  
 
Followup Instructions:
___